US06271225B1
To a solution of N-(2-hydroxyphenyl)-2-bromo-5-methyl-3-thiophenecarboxamide (15 g) in dimethyl sulfoxide (100 ml) was added potassium carbonate (13 g), and the mixture was stirred at 140° C. for 1.5 hours. The reaction system was cooled to room temperature and the reaction mixture was poured into water (800 ml). After neutralization with hydrochloric acid, the mixture was extracted twice with chloroform and washed with water and saturated aqueous sodium hydrogencarbonate solution. The organic layer was dried over sodium sulfate and the solvent was evaporated under reduced pressure. To the residue was added chloroform and the crystals were collected by filtration to give 2-methylthieno[2,3-b][1,5]benzoxazepin-4(5H)-one (3.3 g).

reactant | N-(2-hydroxyphenyl)-2-bromo-5-methyl-3-thiophenecarboxamide | 15 g | OC1=C(C=CC=C1)NC(=O)C1=C(SC(=C1)C)Br | C12H10BrNO2S
reactant | potassium carbonate | 13 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 800 ml | O | H2O
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 2-methylthieno[2,3-b][1,5]benzoxazepin-4(5H)-one | 3.3 g | CC1=CC2=C(OC3=C(NC2=O)C=CC=C3)S1 | C12H9NO2S
